US07517875B2
After adding anhydrous acetonitrile (2 ml) to a mixture of (1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine (20 mg, 0.09 mmol), (6-methoxy-1-methyl-1H-indol-3-ylmethyl)-trimethylammonium iodide (0.1 mmol) and anhydrous potassium carbonate (5 mg, 0.11 mmol), the mixture was stirred at 50° C. for 12 hours. The mixture was cooled to room temperature and then passed through a silica gel short column and purified by preparative HPLC to obtain (1H-benzimidazol-2-yl)-[1-(6-methoxy-1-methyl-1H-indol-3-ylmethyl)-piperidin-4-ylmethyl]-amine. The compound was identified by LC-MS.

reactant | (1H-benzimidazol-2-yl)-piperidin-4-ylmethyl-amine | 0.09 mmol, 20 mg | N1C(=NC2=C1C=CC=C2)NCC2CCNCC2 | C13H18N4
reactant | (6-methoxy-1-methyl-1H-indol-3-ylmethyl)-trimethylammonium iodide | 0.1 mmol | [I-].COC1=CC=C2C(=CN(C2=C1)C)C[N+](C)(C)C
reactant | potassium carbonate | 0.11 mmol, 5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | (1H-benzimidazol-2-yl)-[1-(6-methoxy-1-methyl-1H-indol-3-ylmethyl)-piperidin-4-ylmethyl]-amine | N1C(=NC2=C1C=CC=C2)NCC2CCN(CC2)CC2=CN(C1=CC(=CC=C21)OC)C | C24H29N5O
